US08207164B2
a) 5-(2-Methoxy-ethoxy)-pyridine-2-carboxylic acid methyl ester
To a precooled solution of 5-hydroxy-pyridine-2-carboxylic acid methyl ester (CAS registry 30766-12-2) (150 mg, 0.980 mmol) and 2-methoxyethanol (82 mg, 0.085 ml, 1.077 mmol) in THF (10 ml) was added at 0° C. triphenylphosphine (397 mg, 1.469 mmol) and the reaction mixture was stirred for 10 min at 0° C. A solution of DIAD (316 mg, 1.469 mmol) in THF (5 ml) was added and the mixture was stirred at room temperature for 19.5 h. After dilution with EtOAc, the crude mixture was extracted with water and brine, the aqueous layers were reextracted with EtOAc, the combined organic extracts dried over Na2SO4, filtered and the filtrate concentrated to yield the title compound after flash chromatography on silica gel (DCM/EtOAc gradient 0-3 min 60:40; 3-35 min 60:40 to 25:75).

reactant | 5-hydroxy-pyridine-2-carboxylic acid methyl ester | 0.980 mmol, 150 mg | COC(=O)C1=NC=C(C=C1)O | C7H7NO3
reactant | 2-methoxyethanol | 1.077 mmol, 0.085 ml, 82 mg | COCCO | C3H8O2
reactant | triphenylphosphine | 1.469 mmol, 397 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.469 mmol, 316 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-(2-Methoxy-ethoxy)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)OCCOC | C10H13NO4
